US07541374B2
The mixture of 1.42 g of 3-cyano-1H-indole, 0.60 g of paraformaldehyde and 0.1 g of triethylamine was stirred at 130 ° C. for 1 hour. After the reaction mixture was cooled to room temperature, acetone was added to the reaction mixture. The mixture was filtered. The filtrate was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 1.69 g of 3-cyano-1H-indole-1-ylmethanol.

reactant | 3-cyano-1H-indole | 1.42 g | C(#N)C1=CNC2=CC=CC=C12 | C9H6N2
reactant | paraformaldehyde | 0.60 g | C=O | CH2O
reactant | triethylamine | 0.1 g | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 3-cyano-1H-indole-1-ylmethanol | 1.69 g | C(#N)C1=CN(C2=CC=CC=C12)CO | C10H8N2O
